US04837293
Preparation of Bis-(4-hydroxy-3,5-dimethylphenyl)acetonitrile
Five grams of 3,5-dimethyl-4-hydroxybenzaldehyde is suspended with stirring in 20 ml of 50% by volume aqueous ethanol. 2.6 gm of potassium cyanide is added in one addition. After one hour, a freshly prepared solution of 6 gm 2,6-dimethylphenol in 10 ml of concentrated sulfuric acid is added slowly over a period of about one minute. An exothermic reaction takes place. After stirring for one hour, the mixture is poured into 100 ml of water. A brown solid containing the named product is filtered off and washed with water. It is dissolved in 10 ml tetrahydrofuran and stirred vigorously for several hours with a solution of 10 gm sodium bisulfite in 50 ml of water. The product is subsequently extracted with ether, washed with brine, dried with magnesium sulfate, filtered and concentrated to yield 5.81 grams of the title compound, a yellow solid.

reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | Five grams | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
reactant | ethanol | C(C)O | C2H6O
reactant | potassium cyanide | 2.6 gm | [C-]#N.[K+]
reactant | 2,6-dimethylphenol | 6 gm | CC1=C(C(=CC=C1)C)O | C8H10O
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
product | Bis-(4-hydroxy-3,5-dimethylphenyl)acetonitrile | 5.81 grams | OC1=C(C=C(C=C1C)C(C#N)C1=CC(=C(C(=C1)C)O)C)C | C18H19NO2
